US06831193B2
3-[(4-chlorophenyl)sulfanyl]benzaldehyde
2-(3-Bromophenyl)-1,3-dioxolane and bis(4-chlorophenyl) disulfide were processed as described in Example 71A to provide the title compound.

reactant | 2-(3-Bromophenyl)-1,3-dioxolane | BrC=1C=C(C=CC1)C1OCCO1 | C9H9BrO2
reactant | bis(4-chlorophenyl) disulfide | ClC1=CC=C(C=C1)SSC1=CC=C(C=C1)Cl | C12H8Cl2S2
product | 3-[(4-chlorophenyl)sulfanyl]benzaldehyde | ClC1=CC=C(C=C1)SC=1C=C(C=O)C=CC1 | C13H9ClOS
